US04213985
Using the procedure of Example 7, 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one was reacted with 1-allyl-piperazine to obtain a 39% yield of 11-[3-(4-allyl-1-piperazinyl)-propionyl]-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one melting at 205°-207° C. after crystallization from ethanol.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | 1-allyl-piperazine | C(C=C)N1CCNCC1 | C7H14N2
product | 11-[3-(4-allyl-1-piperazinyl)-propionyl]-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 39% yield | C(C=C)N1CCN(CC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C22H25N5O2
